US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol) and acetic anhydride (0.52 mL, 5.5 mmol) in pyridine (14 mL) provided N-(6,7,8,9-Tetrahydro-dibenzofuran-2-yl)-acetamide (0.56 g). Mp 195.5-197.5° C.; MS m/z 230 ([M+H]+); Anal. Calcd. for C15H17NO2: C, 73.34; H, 6.59; N, 6.11; Found: C, 73.45; H, 6.54; N, 6.06.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | acetic anhydride | 5.5 mmol, 0.52 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 14 mL | N1=CC=CC=C1 | C5H5N
product | N-(6,7,8,9-Tetrahydro-dibenzofuran-2-yl)-acetamide | 0.56 g | C1=C(C=CC=2OC3=C(C21)CCCC3)NC(C)=O | C14H15NO2
